US07098013B2
The Activity of α-isomaltosylglucosaccharide-forming enzyme was measured by the following assay: A substrate solution was prepared by dissolving maltotriose in 100 mM acetate buffer (pH 6.0) to give a concentration of 2% (w/v). A reaction mixture was prepared by mixing 0.5 ml of the substrate solution and 0.5 ml of an enzyme solution, and incubated at 35° C. for 60 min. After stopping the reaction by boiling for 10 min, the amount of glucose formed in the reaction mixture was determined by high-performance liquid chromatography (HPLC). One unit of α-isomaltosylglucosaccharide-forming activity was defined as the amount of the enzyme that forms one μmole of maltose per minute under the above conditions. HPLC was carried out using“SHODEX KS-801 column”, Showa Denko K.K., Tokyo, Japan, at a column temperature of 60° C. and a flow rate of 0.5 ml/min of water, and using “RI-8012”, a differential refractometer commercialized by Tosho Corporation, Tokyo, Japan.

reactant | maltotriose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@H](O[C@@H]([C@@H]([C@H]2O)O)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O)CO)CO)O)O)O)O | C18H32O16
solvent | acetate | 100 mM, pH 6.0 | C(C)(=O)[O-]
product | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
